US03976771
a. Preparation of 2-bromo-N-(α,α-dimethylbenzyl)propionamide
α,α-dimethylbenzylamine (27.0 g; 0.200 mole) was dissolved in toluene (200 ml), 10 % NaOH (200 ml) was added and the stirred mixture was cooled to 0°C. Bromopropionyl bromide (76.0 g; 0.352 mole) was added dropwise during 30 minutes while keeping the temperature below 10°C. Stirring was continued at room temperature for about 3 hours. The precipitated crystalline 2-bromo-N-(α,α-dimethylbenzyl)propionamide was filtered off, washed on the filter with cold toluene and dried in vacuo at 60°C. Yield: 45.2 g (83.8 %); m.p. 102°-103°C.

reactant | α,α-dimethylbenzylamine | 0.200 mole, 27.0 g | CC(C1=CC=CC=C1)(C)N | C9H13N
reactant | NaOH | 200 ml | [OH-].[Na+]
reactant | Bromopropionyl bromide | 0.352 mole, 76.0 g | BrCCC(=O)Br | C3H4Br2O
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-bromo-N-(α,α-dimethylbenzyl)propionamide | BrC(C(=O)NC(C1=CC=CC=C1)(C)C)C | C12H16BrNO
